US04115438
A solution of 13.0 g of crude 7-(6-oxocyclohex-2-enyl)hept-5Z-enoic acid in 200 ml of dry methanol was stirred under argon as 2 ml of acetyl chloride was added. The resultant yellow solution was left to stand for 2.6 days (on another occasion 16 hr was found to be sufficient). Solvent was removed by evaporation in vacuo and the residue was dissolved in ether and washed with saturated aqueous sodium bicarbonate. The wash solution was back extracted with ether. The combined ether extracts were dried (MgSO4) and evaporated in vacuo to yield 11.6 g of crude methyl 7-(6-oxocyclohex-1-enyl)hept-5Z-enoate as a yellow oil. This product was purified by chromatography on silicic acid-Celite (85:15) using benzene to ethyl acetate gradient elution to give 0.78 g of ca. 80% pure material and 8.41 g of pure material.

reactant | 7-(6-oxocyclohex-2-enyl)hept-5Z-enoic acid | 13.0 g | O=C1CCC=CC1C\C=C/CCCC(=O)O | C13H18O3
reactant | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 200 ml | CO | CH4O
product | methyl 7-(6-oxocyclohex-1-enyl)hept-5Z-enoate | 11.6 g | O=C1CCCC=C1C\C=C/CCCC(=O)OC | C14H20O3
